### PR TITLE
Noncumu system

### PR DESCRIPTION
**Pull request by jiangsy**

### CODE REVIEW

File: src/NonCumulative/Semantics/Realizability.agda [hunk 1]
```diff
@@ -32,7 +32,7 @@ private
     mutual
 
       Bot⊆El : ∀ i
-               (real : ∀ j → j < i → ∀ {A A′} (A≈A′ : A ≈ A′ ∈ 𝕌 j) → A ≈ A′ ∈ TopT j)
+               (real : ∀ { j } → j < i → ∀ {A A′} (A≈A′ : A ≈ A′ ∈ 𝕌 j) → A ≈ A′ ∈ TopT j)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Semantics/Realizability.agda]: unnecessary space

File: src/NonCumulative/Semantics/Realizability.agda [hunk 2]
```diff
@@ -63,15 +63,15 @@ private
...
+        ; ua≈ub = Bot⊆El k (λ l<k → real (≤-trans l<k (m≤n+m k j))) A≈A′ helper
         }
         where helper : unli c ≈ unli c′ ∈ Bot
               helper n
                 with c≈c′ n
               ...  | u , ↘u , ↘u′ = unlift u , Runli n ↘u , Runli n ↘u′
 
       El⊆Top : ∀ i
-               (real : ∀ j → j < i → ∀ {A A′} (A≈A′ : A ≈ A′ ∈ 𝕌 j) → A ≈ A′ ∈ TopT j)
+               (real : ∀ { j } → j < i → ∀ {A A′} (A≈A′ : A ≈ A′ ∈ 𝕌 j) → A ≈ A′ ∈ TopT j)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Semantics/Realizability.agda:74]: same as above

File: src/NonCumulative/Semantics/Realizability.agda [hunk 3]
```diff
@@ -87,29 +87,29 @@ private
...
         rewrite 𝕌-wf-gen k (Li≤′ j k refl)
         with a≈a′
       ...  | record { ua = ua ; ub = ub ; ↘ua = ↘ua ; ↘ub = ↘ub ; ua≈ub = ua≈ub }
-           with El⊆Top _ (λ _ l<k → real _ (≤-trans l<k (m≤n+m k j))) A≈A′ ua≈ub n
+           with El⊆Top _ (λ l<k → real (≤-trans l<k (m≤n+m k j))) A≈A′ ua≈ub n
       ...     | w , ↘w , ↘w′                  = liftt j w , Rli n ↘ua ↘w refl , Rli n ↘ub ↘w′ refl
 
       𝕌⊆TopT : ∀ i
-               (real : ∀ j → j < i → ∀ {A A′} (A≈A′ : A ≈ A′ ∈ 𝕌 j) → A ≈ A′ ∈ TopT j)
+               (real : ∀ { j } → j < i → ∀ {A A′} (A≈A′ : A ≈ A′ ∈ 𝕌 j) → A ≈ A′ ∈ TopT j)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Semantics/Realizability.agda]: same

File: src/NonCumulative/Soundness/LogRel.agda [hunk 4]
```diff
@@ -38,335 +38,359 @@ data _⊢_∶N®_∈Nat : Ctx → Exp → D → Set where
...
+    krip : Δ ⊢w σ ∶ Γ → ΠRel i j k Δ IT OT σ i≡maxjk univ jA RI RO Rs
+
+
+-- Gluing model for universes
+
+-- ...
+record GluU j i Γ t T A 
+            (i≡1+j : i ≡ 1 + j)
+            (univ : ∀ {l} → l < i → Ty)
+            (R : A ∈′ PERDef.𝕌 j (λ {l} l<j → univ {l} (<-trans l<j (≤-reflexive (sym i≡1+j)))) → Set) : Set where
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/LogRel.agda:90]: I think  `(R : A ∈′ univ ?)` might just be more convenient, and allows you to apply substitution more easily.

File: src/NonCumulative/Soundness/LogRel.agda [hunk 5]
```diff
@@ -38,335 +38,359 @@ data _⊢_∶N®_∈Nat : Ctx → Exp → D → Set where
...
+  field
+    t∶T : Γ ⊢ t ∶[ i ] T
+    T≈  : Γ ⊢ T ≈ Se j ∶[ 1 + i ] Se i
+    A∈𝕌 : A ∈′ PERDef.𝕌 j (λ {l} l<j → univ {l} (<-trans l<j (≤-reflexive (sym i≡1+j))))
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/LogRel.agda:94]: same as above

File: src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda [hunk 6]
```diff
@@ -0,0 +1,161 @@
...
+
+-- If T and A (and B) are related in level i, then T is typed in level i.
+®⇒ty : ∀ {i} (A≈B : A ≈ B ∈ 𝕌 i) →
+       Γ ⊢ T ®[ i ] A≈B →
+       -----------------------
+       Γ ⊢ T ∶[ 1 + i ] Se i
+®⇒ty (ne C≈C′ j≡1+i j′≡1+i) (⊢T , _) = ⊢T
+®⇒ty (N i≡0) T® = proj₁ (proj₂ (presup-≈ T®))
+®⇒ty (U i≡1+j j≡j′) T® = proj₁ (proj₂ (presup-≈ T®))
+®⇒ty (Π i≡maxjk jA RT j≡j′ k≡k′) record { IT = IT ; OT = OT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip } = proj₁ (proj₂ (presup-≈ T≈))
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda]: open a record in a where clause to avoid clutters. check other files for examples.

Comment (HuStmpHrrr) [reply src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda]: see below, in fact

File: src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda [hunk 7]
```diff
@@ -0,0 +1,161 @@
...
+-- ® respects type equivalence.
+®-resp-≈ : ∀ {i} (A≈B : A ≈ B ∈ 𝕌 i) →
+          Γ ⊢ T ®[ i ] A≈B →
+          Γ ⊢ T ≈ T′ ∶[ 1 + i ] Se i →
+          -----------------------
+          Γ ⊢ T′ ®[ i ] A≈B
+®-resp-≈ (ne C≈C′ j≡1+i j′≡1+i) (⊢T , rel) T≈T′ = (proj₁ (proj₂ (proj₂ (presup-≈ T≈T′)))) , λ ⊢σ → ≈-trans ([]-cong-Se′ (≈-sym T≈T′) (⊢w⇒⊢s ⊢σ)) (rel ⊢σ) 
+®-resp-≈ (N i≡0) T® T≈T′ = ≈-trans (≈-sym T≈T′) T®
+®-resp-≈ (U i≡1+j j≡j′) T® T≈T′ = ≈-trans (≈-sym T≈T′) T®
+®-resp-≈ (Π i≡maxjk jA RT j≡j′ k≡k′) T® T≈T′ = record { IT = IT ; OT = OT ; ⊢IT = ⊢IT; ⊢OT = ⊢OT ; T≈ = ≈-trans (≈-sym T≈T′) T≈ ; krip = krip }
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda]: add new lines when constructing a record for clarity.

File: src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda [hunk 8]
```diff
@@ -0,0 +1,161 @@
...
+
+-- ®El respects type equivalence.
+®El-resp-T≈ : ∀ {i} (A≈B : A ≈ B ∈ 𝕌 i) →
+              Γ ⊢ t ∶ T ®[ i ] a ∈El A≈B →
+              Γ ⊢ T ≈ T′ ∶[ 1 + i ] Se i →
+              ---------------------------
+              Γ ⊢ t ∶ T′ ®[ i ] a ∈El A≈B
+®El-resp-T≈ (ne C≈C′ j≡1+i j′≡1+i) (ne c≈c' j≡i j≡′i , glu) T≈T′ = 
+    (ne c≈c' j≡i j≡′i) , 
+    record {
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda]: as a stylistic common practice, align brackets with semicolons

File: src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda [hunk 9]
```diff
@@ -0,0 +1,161 @@
...
+    (ne c≈c' j≡i j≡′i) , 
+    record { 
+              t∶T = conv t∶T T≈T′ ; 
+              ⊢T = proj₁ (proj₂ (proj₂ (presup-≈ T≈T′))) ; 
+              krip = λ ⊢σ → let Tσ≈ , tσ≈ = krip ⊢σ
+                                TT′σ = []-cong-Se′ T≈T′ (⊢w⇒⊢s ⊢σ)
+                            in ≈-trans (≈-sym TT′σ) Tσ≈ , ≈-conv tσ≈ TT′σ 
+            }
+    where open GluNe glu
+®El-resp-T≈ (N i≡0) (t∶N® , T≈N) T≈T′ rewrite i≡0 = t∶N® , ≈-trans (≈-sym T≈T′) T≈N
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda]: rewrite on a new line

File: src/NonCumulative/Soundness/LogRel.agda [hunk 10]
```diff
@@ -38,335 +38,359 @@ data _⊢_∶N®_∈Nat : Ctx → Exp → D → Set where
...
+    ⟦ i , rc , Univ ⟧ Γ ⊢ t ∶ T ® a ∈El (Π {j = j} {k = k} i≡maxjk jA RT j≡j′ k≡k′) = GluΛ _ _ _ Γ t T a i≡maxjk Univ jA RT 
+      (⟦ j , (λ l<j → rc (ΠI≤ i≡maxjk l<j)) , (λ l<j → Univ (ΠI≤ i≡maxjk l<j)) ⟧_⊢_® jA) 
+      (⟦ j , (λ l<j → rc (ΠI≤ i≡maxjk l<j)) , (λ l<j → Univ (ΠI≤ i≡maxjk l<j)) ⟧_⊢_∶_®_∈El jA) 
+      λ a∈ → ⟦ k , (λ l<k → rc (ΠO≤ i≡maxjk l<k)) , (λ l<k → Univ (ΠO≤ i≡maxjk l<k)) ⟧_⊢_∶_®_∈El (ΠRT.T≈T′ (RT a∈))
+    ⟦ i , rc , Univ ⟧ Γ ⊢ t ∶ T ® a ∈El L {j = j} {k = k} i≡j+k kA j≡j′ k≡k′ = Glul _ _ _ Γ t T i≡j+k Univ kA
+      ((⟦ k , (λ l<k → rc (Li≤ i≡j+k l<k)) , (λ {l} l<k → Univ (Li≤ i≡j+k l<k)) ⟧_⊢_∶_®_∈El kA))
+
+-- Similar to the PER model, we tie the knot using well-founded induction.
+Glu-wellfounded : ∀ i {j} (j<i : j < i) (univ : ∀ {l} → l < j → Ty) {A B} → Ctx → Typ → A ≈ B ∈ PERDef.𝕌 j univ → Set
+Glu-wellfounded (suc i) {j} (s≤s j<i) univ =  Glu.⟦ _ , (λ {k} k<j univ₁ Γ T A≈B → Glu-wellfounded i (<-≤-trans k<j j<i) (λ l<k → univ₁ l<k) Γ T A≈B) , univ ⟧_⊢_®_
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/LogRel.agda]: need a few equations. c.f. https://hustmphrrr.github.io/mech-type-theories/MLTT.Soundness.Properties.LogRel.html#1432

File: src/NonCumulative/Soundness/LogRel.agda (hunk 4 above)
Comment (jiangsy) [reply src/NonCumulative/Soundness/LogRel.agda:90]: not really? because rc in the `⟦_,_,_⟧_⊢_®_`  requires a specific shape `PERDef.𝕌 j univ`, by the args of `A ≈ B ∈ PERDef.𝕌 j univ`

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 11]
```diff
@@ -0,0 +1,45 @@
+{-# OPTIONS --without-K --safe #-}
+
+open import Level hiding (_⊔_)
+open import Axiom.Extensionality.Propositional
+
+-- Properties of the gluing models for terms and types
+module NonCumulative.Soundness.Properties.LogRel (fext : Extensionality 0ℓ (suc 0ℓ)) (fext₁ : Extensionality (suc 0ℓ) (suc 0ℓ)) where
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: use a general fext instead. no need to specialize levels like this.

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 12]
```diff
@@ -0,0 +1,45 @@
...
+
+open import NonCumulative.Soundness.Properties.NoFunExt.LogRel public
+
+Glu-wellfounded-≡′ : ∀ {j i i′} → (j<i : j < i) → (j<i′ : j < i′) → 
+  (λ (univ : ∀ {l} → l < j → Ty) {A B} → Glu-wellfounded i j<i univ {A} {B}) ≡ (λ (univ : ∀ {l} → l < j → Ty) {A B} → Glu-wellfounded i′ j<i′ univ {A} {B})
+Glu-wellfounded-≡′ {j} {i} {i′} (s≤s {j} j<i) (s≤s {j} j<i′) = fext₁ λ (univ : ∀ {l} → l < j → Ty) → cong (λ 
+  (rc : ∀ {k} (k<i : k < j) (univ : ∀ {l} → l < k → Ty) {A B} → Ctx → Typ → A ≈ B ∈ PERDef.𝕌 k univ → Set) {A B} → 
+  Glu.⟦ j , rc , univ ⟧_⊢_®_) (implicit-extensionality fext λ {j′} → fext λ j′<j → Glu-wellfounded-≡′ (≤-trans j′<j j<i) (≤-trans j′<j j<i′))
+
+Glu-wellfounded-≡ : ∀ {i j} (j<i : j < i) →  (λ {A B} → Glu-wellfounded i {j} j<i (𝕌-wellfounded j) {A} {B}) ≡ (_⊢_®[ j ]_)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda:29]: this lemma makes sense. I think there could be a more general version, but I think it will come up later.

File: src/NonCumulative/Soundness/LogRel.agda (hunk 4 above)
Comment (HuStmpHrrr) [reply src/NonCumulative/Soundness/LogRel.agda:90]: ok then

File: src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda [hunk 13]
```diff
@@ -68,8 +68,10 @@ open import NonCumulative.Statics.Ascribed.Properties.Contexts
 ®⇒ty (ne C≈C′ j≡1+i j′≡1+i) (⊢T , _) = ⊢T
 ®⇒ty (N i≡0) T® = proj₁ (proj₂ (presup-≈ T®))
 ®⇒ty (U i≡1+j j≡j′) T® = proj₁ (proj₂ (presup-≈ T®))
-®⇒ty (Π i≡maxjk jA RT j≡j′ k≡k′) record { IT = IT ; OT = OT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip } = proj₁ (proj₂ (presup-≈ T≈))
-®⇒ty (L i≡j+k kA j≡j′ k≡k′) record { UT = UT ; ⊢UT = ⊢UT ; T≈ = T≈ ; krip = krip } = proj₁ (proj₂ (presup-≈ T≈))
+®⇒ty (Π i≡maxjk jA RT j≡j′ k≡k′) T® = proj₁ (proj₂ (presup-≈ T≈))
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda]: excessive trailing white spaces

File: src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda [hunk 14]
```diff
@@ -81,9 +83,21 @@ open import NonCumulative.Statics.Ascribed.Properties.Contexts
 ®-resp-≈ (ne C≈C′ j≡1+i j′≡1+i) (⊢T , rel) T≈T′ = (proj₁ (proj₂ (proj₂ (presup-≈ T≈T′)))) , λ ⊢σ → ≈-trans ([]-cong-Se′ (≈-sym T≈T′) (⊢w⇒⊢s ⊢σ)) (rel ⊢σ) 
 ®-resp-≈ (N i≡0) T® T≈T′ = ≈-trans (≈-sym T≈T′) T®
 ®-resp-≈ (U i≡1+j j≡j′) T® T≈T′ = ≈-trans (≈-sym T≈T′) T®
-®-resp-≈ (Π i≡maxjk jA RT j≡j′ k≡k′) T® T≈T′ = record { IT = IT ; OT = OT ; ⊢IT = ⊢IT; ⊢OT = ⊢OT ; T≈ = ≈-trans (≈-sym T≈T′) T≈ ; krip = krip }
+®-resp-≈ (Π i≡maxjk jA RT j≡j′ k≡k′) T® T≈T′ = record
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda]: white space, here and below

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 15]
```diff
@@ -0,0 +1,84 @@
+{-# OPTIONS --without-K --safe #-}
+
+open import Level hiding (_⊔_)
+open import Axiom.Extensionality.Propositional
+
+-- Properties of the gluing models for terms and types
+module NonCumulative.Soundness.Properties.LogRel (fext : ∀ ℓ₁ ℓ₂ → Extensionality ℓ₁ ℓ₂) where
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: `ℓ₁ ℓ₂` should be inferrable. make them implicit to avoid filling them in below.

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 16]
```diff
@@ -0,0 +1,84 @@
...
+
+®El⇒® : ∀ { i } → (A≈B : A ≈ B ∈ 𝕌 i) →
+        Γ ⊢ t ∶ T ®[ i ] a ∈El A≈B →
+        ----------------------------
+        Γ ⊢ T ®[ i ] A≈B
+®El⇒® (ne C≈C j≡1+i j′≡1+i) (ne c≈c j≡i j≡í , record { t∶T = t∶T ; ⊢T = ⊢T ; krip = krip }) = ⊢T , λ ⊢σ → proj₁ (krip ⊢σ)
+®El⇒® (N i≡0) (_ , T≈N) rewrite i≡0 = T≈N
+®El⇒® (U _ _) t® = GluU.T≈ t®
+®El⇒® (Π refl jA RT refl refl) record { t∶T = t∶T ; a∈El = a∈El ; IT = IT ; OT = OT ; ⊢IT = ⊢IT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip } = 
+  record {
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: style

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 17]
```diff
@@ -0,0 +1,84 @@
...
+Glu-wellfounded-≡-Glul {j} {k} = implicit-extensionality (fext 0ℓ (Level.suc 0ℓ)) (fext 0ℓ (Level.suc 0ℓ) (λ l<k → Glu-wellfounded-≡′ (Li≤ {j + k} refl l<k) l<k))
+
+®El⇒® : ∀ { i } → (A≈B : A ≈ B ∈ 𝕌 i) →
+        Γ ⊢ t ∶ T ®[ i ] a ∈El A≈B →
+        ----------------------------
+        Γ ⊢ T ®[ i ] A≈B
+®El⇒® (ne C≈C j≡1+i j′≡1+i) (ne c≈c j≡i j≡í , record { t∶T = t∶T ; ⊢T = ⊢T ; krip = krip }) = ⊢T , λ ⊢σ → proj₁ (krip ⊢σ)
+®El⇒® (N i≡0) (_ , T≈N) rewrite i≡0 = T≈N
+®El⇒® (U _ _) t® = GluU.T≈ t®
+®El⇒® (Π refl jA RT refl refl) record { t∶T = t∶T ; a∈El = a∈El ; IT = IT ; OT = OT ; ⊢IT = ⊢IT ; ⊢OT = ⊢OT ; T≈ = T≈ ; krip = krip } =
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: style: use open

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 18]
```diff
@@ -0,0 +1,84 @@
...
+      ⊢OT = ⊢OT ; 
+      T≈ = T≈ ; 
+      krip = λ {_} {σ} ⊢σ → let open ΛRel (krip ⊢σ) in 
+        record { 
+          IT-rel = IT-rel ; 
+          OT-rel = λ s® a∈ → let open ΛKripke (ap-rel s® a∈) in {!  !} } 
+  }
+-- ΠRT.T≈T′ (RT a∈) : ΠRT.⟦T⟧ (RT a∈) ≈ ΠRT.⟦T′⟧ (RT a∈) ∈ PERDef.𝕌 k (λ l<k → 𝕌-wellfounded (max j k) (ΠO≤ refl l<k))
+®El⇒® (L′ {j} {k} kA) record { t∶T = t∶T ; UT = UT ; ⊢UT = ⊢UT ; a∈El = a∈El ; T≈ = T≈ ; krip = krip } 
+  rewrite 𝕌-wf-gen {j + k} k (λ l<k → Li≤ refl l<k) rewrite Glu-wellfounded-≡-Glul {j} {k} = record
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: use `|` for consecutive rewrites.

File: src/NonCumulative/Soundness/Properties/LogRel.agda [hunk 19]
```diff
@@ -0,0 +1,84 @@
...
+          IT-rel = IT-rel ; 
+          OT-rel = λ s® a∈ → let open ΛKripke (ap-rel s® a∈) in {!  !} } 
+  }
+-- ΠRT.T≈T′ (RT a∈) : ΠRT.⟦T⟧ (RT a∈) ≈ ΠRT.⟦T′⟧ (RT a∈) ∈ PERDef.𝕌 k (λ l<k → 𝕌-wellfounded (max j k) (ΠO≤ refl l<k))
+®El⇒® (L′ {j} {k} kA) record { t∶T = t∶T ; UT = UT ; ⊢UT = ⊢UT ; a∈El = a∈El ; T≈ = T≈ ; krip = krip } 
+  rewrite 𝕌-wf-gen {j + k} k (λ l<k → Li≤ refl l<k) rewrite Glu-wellfounded-≡-Glul {j} {k} = record 
+  { UT = UT 
+  ; ⊢UT = ⊢UT 
+  ; T≈ = T≈ 
+  ; krip = λ {Δ} {σ} ⊢σ → let open lKripke (krip ⊢σ) in ®El⇒® kA ®ua
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/LogRel.agda]: no need for `{Δ} {σ}` if they are not used.

File: src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda [hunk 20]
```diff
@@ -0,0 +1,181 @@
...
+...  | _ , ⊢Γ         = ≈-trans ([]-cong-N′ t≈ (⊢w⇒⊢s ⊢σ)) (≈-trans (su-[] (⊢w⇒⊢s ⊢σ) (®Nat⇒∶Nat t′∼a ⊢Γ)) (su-cong (®Nat⇒≈ t′∼a ⊢σ)))
+®Nat⇒≈ (ne c∈ rel) ⊢σ = rel ⊢σ
+
+®Nat-mon : Γ ⊢ t ∶N® a ∈Nat → Δ ⊢w σ ∶ Γ → Δ ⊢ t [ σ ] ∶N® a ∈Nat
+®Nat-mon (ze t≈) ⊢σ                             = ze (≈-trans ([]-cong-N′ t≈ (⊢w⇒⊢s ⊢σ)) (ze-[] (⊢w⇒⊢s ⊢σ)))
+®Nat-mon (su t≈ t∼a) ⊢σ                         = su (≈-trans ([]-cong-N′ t≈ ⊢σ′) (su-[] ⊢σ′ (®Nat⇒∶Nat t∼a (proj₂ (presup-s ⊢σ′))))) (®Nat-mon t∼a ⊢σ)
+  where ⊢σ′ = ⊢w⇒⊢s ⊢σ
+®Nat-mon {_} {t} {_} {Δ} {σ} (ne {c} c∈ rel) ⊢σ = ne c∈ helper
+  where helper : Δ′ ⊢w τ ∶ Δ → Δ′ ⊢ sub (sub t σ) τ ≈ Ne⇒Exp (proj₁ (c∈ (L.length Δ′))) ∶[ 0 ] N
+        helper  {Δ′} {τ} ⊢τ with c∈ (len Δ′) | c∈ (len Δ′) | rel (⊢w-∘ ⊢σ ⊢τ)
```
Comment (HuStmpHrrr) [inline src/NonCumulative/Soundness/Properties/NoFunExt/LogRel.agda]: write `with` on a new line.

**Comment by HuStmpHrrr** [comment]
fix these stylistic issues and we can merge this PR.

**Review by HuStmpHrrr — APPROVED** [review]
